US07820662B2
trans-4-[8-Chloro-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester
A CH2Cl2 solution (2 mL) of trans-4-{[(3-chloropyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-cyclohexanecarboxylic acid methyl ester (2.3 g, 4.5 mmol) in a round bottom flask equipped with a condenser was charged with POCl3 (15 mL) and stirred at 80° C. for 72 h. The reaction mixture was concentrated in vacuo to a foam, cooled to 0° C., and charged with cold 2M NH3 in isopropanol to basic pH. The mixture was concentrated in vacuo to solids and partitioned between EtOAc and water. The organic layer was washed with water (1×), brine (1×), dried over Na2SO4, filtered, and concentrated to a brown oil. The resulting residue was purified by silica gel chromatography (CH2Cl2 to 1%˜7N1NH3 in MeOH/CH2Cl2) to provide the desired product as a yellow solid; 1H NMR (CDCl3, 400 MHz) δ 1.62-1.73 (m, 2H), 1.92-2.02 (m, 2H), 2.15-2.27 (m, 4H), 2.44-2.60 (m, 1H), 2.99-3.08 (m, 1H), 3.72 (s, 3H), 7.39 (d, 1H, J=5.2 Hz), 7.45-7.50 (m, 1H), 7.51-7.57 (m, 2H), 7.61 (d, 1H, J=5.2 Hz), 7.85-7.93 (m, 3H), 8.19 (d, 2H, J=7.6 Hz), 8.27 (d, 1H, J=8.4 Hz), 8.50 (s, 1H); MS (ES+): m/z 496.9 [MH+]; HPLC: tR=3.6 min (Micromass Platform II, nonpolar—5 min).

reactant | trans-4-{[(3-chloropyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-cyclohexanecarboxylic acid methyl ester | 4.5 mmol, 2.3 g | COC(=O)[C@@H]1CC[C@H](CC1)C(NC(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)C1=NC=CN=C1Cl)=O | C29H27ClN4O3
reactant | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | trans-4-[8-Chloro-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=C2N1C=CN=C2Cl)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C29H25ClN4O2
